US07842696B2
DIPEA (136 mg, 0.182 mL, 1.05 mmol) was added to a stirred solution of (4-Benzyloxy-benzoylamino)-acetic acid (100 mg, 0.35 mmol) in DMF (1 mL). HOBT (57 mg, 0.42 mmol) and EDCI.HCl (83 mg, 0.42 mmol) were added at room temperature. After 2 minutes piperazine-1-carboxylic acid O-tolylamide TFA salt (140 mg, 0.42 mmol) was added. The reaction mixture was diluted with cold water and the resulting precipitate was filtered under reduced pressure to afford 87 mg (50.8% yield) of 4-[2-(4-benzyloxy-benzoylamino)-acetyl]-piperazine-1-carboxylic acid o-tolylamide. LCMS Purity %: 89.31, HPLC Purity %: 91.55, 1H NMR (DMSO-d6): δ 8.5-8.4 (bt, 1H), 8.2-8.1 (s, 1H), 7.9-7.8 (d, 2H), 7.4 (m, 5H), 7.2-7.0 (m, 6H) 5.2 (s, 2H), 4.2-4.1 (d, 2H), 3.5 (m, 8H), 2.2 (s, 3H).

reactant | DIPEA | 1.05 mmol, 0.182 mL, 136 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-Benzyloxy-benzoylamino)-acetic acid | 0.35 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(=O)O)C=C1 | C16H15NO4
reactant | HOBT | 0.42 mmol, 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.42 mmol, 83 mg | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-(4-benzyloxy-benzoylamino)-acetyl]-piperazine-1-carboxylic acid o-tolylamide | 87 mg, 50.8% yield | C1(=C(C=CC=C1)NC(=O)N1CCN(CC1)C(CNC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O)C | C28H30N4O4
